US07723336B2
In a 2 dram reaction vial was added crude 6-chloro-N-(4-nitrophenyl)imidazo[1,2-b]pyridazin-8-amine (0.42 g, 1.4 mmol) from 1a and trans-1,4-diaminocyclohexane (1.0 g, 8.0 mmol). The mixture was allowed to melt at 160° C. for 8 hrs. The melt was then cooled, diluted with water and extracted with dichloromethane. The organic layer was concentrated to provide crude N6-((trans)-4-aminocyclohexyl)-N8-(4-nitrophenyl)imidazo[1,2-b]pyridazine-6,8-diamine which was used without further purification.

reactant | 6-chloro-N-(4-nitrophenyl)imidazo[1,2-b]pyridazin-8-amine | 1.4 mmol, 0.42 g | ClC=1C=C(C=2N(N1)C=CN2)NC2=CC=C(C=C2)[N+](=O)[O-] | C12H8ClN5O2
reactant | trans-1,4-diaminocyclohexane | 8.0 mmol, 1.0 g | N[C@@H]1CC[C@H](CC1)N | C6H14N2
solvent | water | O | H2O
product | N6-((trans)-4-aminocyclohexyl)-N8-(4-nitrophenyl)imidazo[1,2-b]pyridazine-6,8-diamine | N[C@@H]1CC[C@H](CC1)NC=1C=C(C=2N(N1)C=CN2)NC2=CC=C(C=C2)[N+](=O)[O-] | C18H21N7O2
